US07531663B2
0.256 g (11.1 mmol) of sodium is added at 22° C. under an argon atmosphere to 40 cm3 of methanol. After complete dissolution, 1 g (10.5 mmol) of guanidine hydrochloride is added. After stirring at 22° C. for 3 hours, the reaction mixture is filtered under an argon atmosphere. The filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is dissolved in 10 cm3 of 1,2-dimethoxyethane. 1 g of 3-chlorocarbonyl-1-(quinol-6-yl)-1H-indole hydrochloride, suspended in 40 cm3 of 1,2-dimethoxyethane, is subsequently added at 22° C. under an argon atmosphere. After stirring at 22° C. for 48 hours and after 2 hours at reflux, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 15 cm3 of water. After stirring at 22° C. for 1 hour, a few drops of 10N hydrochloric acid solution are added. After stirring at 22° C. for 12 hours, the suspension is filtered and dried to give 0.52 g of 3-guanidinocarbonyl-1-(quinol-6-yl)-1H-indole hydrochloride in the form of a yellow solid melting at 268° C. IR spectrum (KBr): 3343, 3168, 2174, 1693, 1597, 1543, 1502, 1454, 1236, 1199, 772 and 751 cm−1.

reactant | sodium | 11.1 mmol, 0.256 g | [Na] | Na
reactant | methanol | 40 cm3 | CO | CH4O
reactant | guanidine hydrochloride | 10.5 mmol, 1 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(quinol-6-yl)-1H-indole hydrochloride | 1 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1C=C2C=CC=NC2=CC1
solvent | 1,2-dimethoxyethane | 10 cm3 | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 40 cm3 | COCCOC | C4H10O2
product | 3-guanidinocarbonyl-1-(quinol-6-yl)-1H-indole hydrochloride | 0.52 g | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=CC=C12)C=1C=C2C=CC=NC2=CC1 | InChI=1S/C19H15N5O.ClH/c20-19(21)23-18(25)15-11-24(17-6-2-1-5-14(15)17)13-7-8-16-12(10-13)4-3-9-22-16;/h1-11H,(H4,20,21,23,25);1H
